US07696223B2
a) 4-Benzyl-7-hydroxy-2-phenyl-thiazolo[5,4-c]pyridine-6-carboxylic acid ethyl ester
A mixture of 4-bromo-7-hydroxy-2-phenyl-thiazolo[5,4-c]pyridine-6-carboxylic acid ethyl ester (351 mg, 0.93 mmole), B-benzyl-9-BBN (4.6 ml, 2.3 mmole, 0.5 M in THF), potassium phosphate (592 mg, 2.79 mmole), (2-(dicyclohexylphosphino)-2′,6′-dimethoxybiphenyl)(76 mg, 0.18 mmole) and palladium acetate (21 mg, 0.09 mmole) in dimethylformamide (1 ml) was refluxed for 20 h before it was cooled to room temperature and partitioned between ethyl acetate and water. The mixture was filtered and the organic layer was washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel with a gradient of ethyl acetate and dichloromethane to give the title compound as a yellow oil (65 mg). MS: (+) m/z 391.29 (M+H+)

reactant | 4-bromo-7-hydroxy-2-phenyl-thiazolo[5,4-c]pyridine-6-carboxylic acid ethyl ester | 0.93 mmole, 351 mg | C(C)OC(=O)C1=C(C2=C(C(=N1)Br)SC(=N2)C2=CC=CC=C2)O | C15H11BrN2O3S
reactant | B-benzyl-9-BBN | 2.3 mmole, 0.5 M, 4.6 ml | B1(C2CCCC1CCC2)CC3=CC=CC=C3 | C15H21B
reactant | potassium phosphate | 2.79 mmole, 592 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 2-(dicyclohexylphosphino)-2′,6′-dimethoxybiphenyl | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
catalyst | palladium acetate | 0.09 mmole, 21 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-Benzyl-7-hydroxy-2-phenyl-thiazolo[5,4-c]pyridine-6-carboxylic acid ethyl ester | 65 mg | C(C)OC(=O)C1=C(C2=C(C(=N1)CC1=CC=CC=C1)SC(=N2)C2=CC=CC=C2)O | C22H18N2O3S
